### PR TITLE
[Merged by Bors] - feat: cardinality of Hahn series inverse

### PR DESCRIPTION
**Pull request by vihdzp**
---

- [x] depends on: #32640
- [x] depends on: #32645

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/HahnSeries/Cardinal.lean [hunk 1]
```diff
@@ -85,4 +97,55 @@ theorem cardSupp_mul_le [AddCommMonoid Γ] [IsOrderedCancelAddMonoid Γ] [NonUni
...
+  refine (sum_pow_le_max_aleph0 _).trans' <| (cardSupp_hsum_le _).trans <| sum_le_sum _ _ fun i ↦ ?_
+  rw [SummableFamily.powers_toFun]
+  split_ifs
+  · exact cardSupp_pow_le ..
+  · cases i <;> simp
+
+theorem cardSupp_inv_le [AddCommGroup Γ] [IsOrderedAddMonoid Γ] [Field R] (x : HahnSeries Γ R) :
+    x⁻¹.cardSupp ≤ max ℵ₀ x.cardSupp := by
+  obtain rfl | hx := eq_or_ne x 0
+  · simp
```
Comment (vihdzp) [inline Mathlib/RingTheory/HahnSeries/Cardinal.lean]:
```suggestion
  obtain rfl | hx := eq_or_ne x 0; · simp
```

File: Mathlib/RingTheory/HahnSeries/Cardinal.lean [hunk 2]
```diff
@@ -85,4 +97,54 @@ theorem cardSupp_mul_le [AddCommMonoid Γ] [IsOrderedCancelAddMonoid Γ] [NonUni
...
+    (x * single a r).cardSupp ≤ x.cardSupp := by
+  simpa using (cardSupp_mul_le ..).trans (mul_le_mul_right (cardSupp_single_le ..) _)
+
+theorem cardSupp_pow_le [AddCommMonoid Γ] [IsOrderedCancelAddMonoid Γ] [Semiring R]
+    (x : R⟦Γ⟧) (n : ℕ) : (x ^ n).cardSupp ≤ x.cardSupp ^ n := by
+  induction n with
+  | zero => simp
+  | succ n IH =>
+    simp_rw [pow_succ]
+    exact (cardSupp_mul_le ..).trans <| mul_le_mul_left IH _
```
Comment (wwylele) [inline Mathlib/RingTheory/HahnSeries/Cardinal.lean]:
```suggestion
    simpa [pow_succ] using (cardSupp_mul_le ..).trans <| mul_le_mul_left IH _
```

File: Mathlib/RingTheory/HahnSeries/Cardinal.lean [hunk 3]
```diff
@@ -85,4 +97,54 @@ theorem cardSupp_mul_le [AddCommMonoid Γ] [IsOrderedCancelAddMonoid Γ] [NonUni
...
+
+end PartialOrder
+
+section LinearOrder
+variable [LinearOrder Γ]
+
+theorem cardSupp_hsum_powers_le [AddCommMonoid Γ] [IsOrderedCancelAddMonoid Γ] [CommRing R]
+    (x : R⟦Γ⟧) : (SummableFamily.powers x).hsum.cardSupp ≤ max ℵ₀ x.cardSupp := by
+  rw [← lift_uzero (cardSupp _)]
+  refine (sum_pow_le_max_aleph0 _).trans' <| (cardSupp_hsum_le _).trans <| sum_le_sum _ _ fun i ↦ ?_
```
Comment (wwylele) [inline Mathlib/RingTheory/HahnSeries/Cardinal.lean]: An alternative way to write this, if you like it

```suggestion
  grw [← lift_uzero (cardSupp _), ← sum_pow_le_max_aleph0, cardSupp_hsum_le, sum_le_sum]
  intro i
```

**Review by wwylele — APPROVED** [review]

**Review by YaelDillies — COMMENTED** [review]
Why does `cardSupp` exist? I am worried that we are adding API to a useless wrapper.

**Comment by vihdzp** [comment]
κ-bounded Hahn series appear quite a bit in the literature. In particular, the surreals are univ-bounded (small) real Hahn series with their order dual as value group.

The next PR in this series defines the subfield of κ-bounded Hahn series for uncountable κ, on which some 2,000 lines of code on the CGT repo currently depend.

**Comment by vihdzp** [comment]
Is there any harm in having `cardSupp` if it is in fact an object of interest within the theory of Hahn series? Or should I rewrite this entire file in terms of `cardinalMk_support`?

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
